### PR TITLE
Add Erdős Problem 863 (B₂[r] sets: sums versus differences), linked to the formal proof

### LINKED ISSUE #987: Erdős Problem 863
### What is the conjecture

https://www.erdosproblems.com/863

  Let $r\geq 2$ and let $A\subseteq \\{1,\ldots,N\\}$ be a set of maximal size such that there are at most $r$ solutions to $n=a+b$ with $a\leq b$ for any $n$. (That is, $A$ is a $B_2[r]$ set.)

Similarly, let $B\subseteq \\{1,\ldots,N\\}$ be a set of maximal size such that there are at most $r$ solutions to $n=a-b$ for any $n$. 

If $\lvert A\rvert\sim c_rN^{1/2}$ as $N\to \infty$ and $\lvert B\rvert \sim c_r'N^{1/2}$ as $N\to \infty$ then is it true that $c_r\neq c_r'$ for $r\geq 2$? Is it true that $c_r'<c_r$?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #987.

### What changed
Adds `FormalConjectures/ErdosProblems/863.lean`:
- `sumReps`/`diffReps`, `IsB2 r`/`IsDiffB2 r`, `sumMax r N`/`diffMax r N` (maximal sizes of `B₂[r]` resp. difference-`B₂[r]` subsets of `{1, …, N}`) and `HasSqrtAsymptotic`, copied verbatim from the formal proof;
- `erdos_863.parts.i` / `erdos_863.parts.ii` (`research solved`, `answer(True)`): for `r ≥ 2`, if `sumMax r N ∼ c √N` and `diffMax r N ∼ c' √N` then `c ≠ c'`, resp. `c' < c` (Erdős–Turán bound `c' ≤ √r` and the Cilleruelo–Ruzsa–Trujillo construction).

Linked to plby/lean-proofs `Erdos863.erdos_863_constants_ne` and `Erdos863.erdos_863` (Codex and GPT-5.6 Sol), which are exactly these statements.

### How checked
- Rebuilt the file (Mathlib-only) against this repo's Mathlib: `#print axioms Erdos863.erdos_863` → `[propext, Classical.choice, Quot.sound]`.
- Compiled a renamed copy alongside the new file: the definitions are `rfl`-equal and both parts are literally their theorems.
- `lake --wfail build FormalConjectures.ErdosProblems.«863»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/863.lean [hunk 1]
```diff
@@ -0,0 +1,99 @@
...
+
+/-- The maximum size of a subset of `{1, …, N}` in which every positive difference has at most
+`r` representations. -/
+noncomputable def diffMax (r N : ℕ) : ℕ :=
+  letI : DecidablePred (IsDiffB2 r) := Classical.decPred _
+  ((Finset.Icc 1 N).powerset.filter (IsDiffB2 r)).sup Finset.card
+
+/-- `f N ∼ c √N` as `N → ∞`. -/
+def HasSqrtAsymptotic (f : ℕ → ℕ) (c : ℝ) : Prop :=
+  Tendsto (fun N : ℕ => (f N : ℝ) / Real.sqrt N) atTop (𝓝 c)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/863.lean]: let's avoid this in favour if `~[atTop]`?

File: FormalConjectures/ErdosProblems/863.lean [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+-/
+
+open Filter
+open scoped Topology
+
+namespace Erdos863
+
+/-- Representations of `n` as `a + b` with `a, b ∈ A`, counted once by imposing `a ≤ b`. -/
+def sumReps (A : Finset ℕ) (n : ℕ) : Finset (ℕ × ℕ) :=
+  (A ×ˢ A).filter fun x => x.1 ≤ x.2 ∧ x.1 + x.2 = n
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/863.lean]: can this be unified with `Erdos158.B2 g` in `158.lean` (which even has some lemma `b2_one` somewhere near the definition of `IsSidon`?

File: FormalConjectures/ErdosProblems/863.lean (hunk 1 above)
Comment (Konamiu) [reply FormalConjectures/ErdosProblems/863.lean]: Done (and rebased on main for the module system):
- the sum condition is now `Erdos158.B2 r A` (imported from `158.lean`), and the difference condition `IsDiffB2` is stated in the same `encard` style; `sumMax`/`diffMax` are `sSup`s of the admissible cardinalities;
- `HasSqrtAsymptotic` is gone: both parts now read `(fun N ↦ (sumMax r N : ℝ)) ~[atTop] fun N ↦ c * √N` etc.

Bridge to plby's proof re-verified with the new statements (same axioms). Note `f ~[atTop] fun N ↦ 0 * √N` means `f` is eventually `0`, which still implies plby's `f N / √N → 0`, so the transfer works for every `c`:

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics
open scoped Topology

namespace Bridge863

lemma b2_iff (r : ℕ) (A : Finset ℕ) : Erdos158.B2 r A ↔ Erdos863Plby.IsB2 r A := by
  unfold Erdos158.B2 Erdos863Plby.IsB2 Erdos863Plby.sumReps
  refine forall_congr' fun n => ?_
  have : {x : ℕ × ℕ | x.1 + x.2 = n ∧ x.1 ≤ x.2 ∧ x.1 ∈ (A : Set ℕ) ∧ x.2 ∈ (A : Set ℕ)} =
      ↑((A ×ˢ A).filter fun x => x.1 ≤ x.2 ∧ x.1 + x.2 = n) := by
    ext x
    simp only [Set.mem_ofPred_eq, Finset.coe_filter, Finset.mem_product]
    tauto
  rw [this, Set.encard_coe_eq_coe_finsetCard]
  exact_mod_cast Iff.rfl

lemma diffB2_iff (r : ℕ) (A : Finset ℕ) : Erdos863.IsDiffB2 r A ↔ Erdos863Plby.IsDiffB2 r A := by
  unfold Erdos863.IsDiffB2 Erdos863Plby.IsDiffB2 Erdos863Plby.diffReps
  refine forall_congr' fun n => imp_congr_right fun _ => ?_
  have : {x : ℕ × ℕ | x.1 - x.2 = n ∧ x.1 ∈ (A : Set ℕ) ∧ x.2 ∈ (A : Set ℕ)} =
      ↑((A ×ˢ A).filter fun x => x.1 - x.2 = n) := by
    ext x
    simp only [Set.mem_ofPred_eq, Finset.coe_filter, Finset.mem_product]
    tauto
  rw [this, Set.encard_coe_eq_coe_finsetCard]
  exact_mod_cast Iff.rfl

/-- `sSup` of the cardinalities of the admissible sets equals plby's `Finset.sup`. -/
lemma sSup_eq_sup {N : ℕ} (P : Finset ℕ → Prop) [DecidablePred P] (hP : P ∅) :
    sSup {m : ℕ | ∃ A : Finset ℕ, A ⊆ Finset.Icc 1 N ∧ P A ∧ A.card = m} =
      ((Finset.Icc 1 N).powerset.filter P).sup Finset.card := by
  apply le_antisymm
  · apply csSup_le'
    rintro m ⟨A, hA, hPA, rfl⟩
    exact Finset.le_sup (f := Finset.card) (Finset.mem_filter.2 ⟨Finset.mem_powerset.2 hA, hPA⟩)
  · obtain ⟨A, hA, hcard⟩ := Finset.exists_mem_eq_sup _
      ⟨∅, Finset.mem_filter.2 ⟨Finset.mem_powerset.2 (Finset.empty_subset _), hP⟩⟩ Finset.card
    rw [hcard]
    obtain ⟨hA1, hA2⟩ := Finset.mem_filter.1 hA
    refine le_csSup ⟨N, ?_⟩ ⟨A, Finset.mem_powerset.1 hA1, hA2, rfl⟩
    rintro m ⟨B, hB, -, rfl⟩
    simpa using Finset.card_le_card hB

lemma sumMax_eq (r N : ℕ) : Erdos863.sumMax r N = Erdos863Plby.sumMax r N := by
  classical
  unfold Erdos863.sumMax Erdos863Plby.sumMax
  simp only [b2_iff]
  rw [sSup_eq_sup _ (by intro n; simp [Erdos863Plby.sumReps])]

lemma diffMax_eq (r N : ℕ) : Erdos863.diffMax r N = Erdos863Plby.diffMax r N := by
  classical
  unfold Erdos863.diffMax Erdos863Plby.diffMax
  simp only [diffB2_iff]
  rw [sSup_eq_sup _ (by intro n _; simp [Erdos863Plby.diffReps])]

/-- `f ~ c √N` gives plby's `f N / √N → c`. -/
lemma hasSqrtAsymptotic_of {f : ℕ → ℕ} {c : ℝ}
    (h : (fun N : ℕ => (f N : ℝ)) ~[atTop] fun N : ℕ => c * √N) :
    Erdos863Plby.HasSqrtAsymptotic f c := by
  unfold Erdos863Plby.HasSqrtAsymptotic
  rcases eq_or_ne c 0 with rfl | hc
  · -- `f ~ 0` means `f` is eventually zero
    have h0 : (fun N : ℕ => (f N : ℝ)) =ᶠ[atTop] 0 := by
      have := h.isLittleO
      simp only [zero_mul] at this
      rw [show (fun N : ℕ => (f N : ℝ)) - (fun _ => (0 : ℝ)) = fun N => (f N : ℝ) by
        funext N; simp] at this
      exact Asymptotics.isLittleO_zero_right_iff.1 this
    refine tendsto_const_nhds.congr' ?_
    filter_upwards [h0] with N hN
    simp only [Pi.zero_apply] at hN
    simp [hN]
  · have := (isEquivalent_iff_tendsto_one (by
      filter_upwards [eventually_gt_atTop 0] with N hN
      have : (0 : ℝ) < √N := Real.sqrt_pos.2 (by exact_mod_cast hN)
      positivity)).1 h
    have h2 : Tendsto (fun N : ℕ => (f N : ℝ) / √N) atTop (𝓝 c) := by
      have := this.const_mul c
      rw [mul_one] at this
      refine this.congr' ?_
      filter_upwards [eventually_gt_atTop 0] with N hN
      have hs : (0 : ℝ) < √N := Real.sqrt_pos.2 (by exact_mod_cast hN)
      simp only [Pi.div_apply]
      field_simp
    exact h2

theorem erdos_863_i_bridge : type_of% Erdos863.erdos_863.parts.i := by
  show True ↔ _
  simp only [true_iff]
  intro r hr c c' hc hc'
  simp only [sumMax_eq, diffMax_eq] at hc hc'
  exact Erdos863Plby.erdos_863_constants_ne hr (hasSqrtAsymptotic_of hc) (hasSqrtAsymptotic_of hc')

theorem erdos_863_ii_bridge : type_of% Erdos863.erdos_863.parts.ii := by
  show True ↔ _
  simp only [true_iff]
  intro r hr c c' hc hc'
  simp only [sumMax_eq, diffMax_eq] at hc hc'
  exact Erdos863Plby.erdos_863 hr (hasSqrtAsymptotic_of hc) (hasSqrtAsymptotic_of hc')

end Bridge863
```
</details>
